US07968583B2
A mixture of 3-[2-Amino-4-(4-methyl-piperazin-1-yl)-benzoylamino]-5-(3,5-difluoro-benzenesulfonyl)-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester (308 mg, 0.5 mmol), N,N-diisopropylethylamine (0.104 mL, 0.6 mmol, 1.2 eq), morpholine-4-carbonyl chloride (1.2 mL, 10 mmol, 20 eq) and tetrahydrofuran (20 mL) was stirred at 60° C. for 7 days. The reaction mixture was then poured into water (100 mL), extracted with dichloromethane (100 mL), dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel (acetone as eluant) affording 112 mg of 5-(3,5-difluoro-benzenesulfonyl)-6,6-dimethyl-3-{4-(4-methyl-piperazin-1-yl)-2-[(morpholine-4-carbonyl)-amino]-benzoylamino}-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester that was treated with 10 mL of methanol/triethylamine 8:2 and stirred at room temperature overnight. The mixture was evaporated to dryness and the residue purified by flash chromatography on silica gel using dichloromethane-methanol-30% NH4OH 96:4:0.4 as eluant, yielding the title compound as white solid (50 mg).

reactant | 3-[2-Amino-4-(4-methyl-piperazin-1-yl)-benzoylamino]-5-(3,5-difluoro-benzenesulfonyl)-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester | 0.5 mmol, 308 mg | C(C)OC(=O)N1N=C2C(=C1NC(C1=C(C=C(C=C1)N1CCN(CC1)C)N)=O)CN(C2(C)C)S(=O)(=O)C2=CC(=CC(=C2)F)F | C28H33F2N7O5S
reactant | N,N-diisopropylethylamine | 0.6 mmol, 0.104 mL, 1.2 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | morpholine-4-carbonyl chloride | 10 mmol, 1.2 mL, 20 eq | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 5-(3,5-difluoro-benzenesulfonyl)-6,6-dimethyl-3-{4-(4-methyl-piperazin-1-yl)-2-[(morpholine-4-carbonyl)-amino]-benzoylamino}-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester | 112 mg | C(C)OC(=O)N1N=C2C(=C1NC(C1=C(C=C(C=C1)N1CCN(CC1)C)NC(=O)N1CCOCC1)=O)CN(C2(C)C)S(=O)(=O)C2=CC(=CC(=C2)F)F | C33H40F2N8O7S
